US08048909B2
2-Fluoro-4-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzonitrile hydrochloride
Using tert-butyl ({1-[(4-cyano-3-fluorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)carbamate (54.7 mg) and 4 mol/L hydrogen chloride-ethyl acetate solution (4 mL), a procedure as in Example 30 was performed to give the title compound as a white solid (yield 6.9 mg, 14%).

reactant | tert-butyl ({1-[(4-cyano-3-fluorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)carbamate | 54.7 mg | C(#N)C1=C(C=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CNC(OC(C)(C)C)=O)F | C23H22FN3O4S
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 4 mL | C(C)(=O)OCC.Cl
product | 2-Fluoro-4-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzonitrile hydrochloride | yield 6.9 mg, 14% | Cl.FC1=C(C#N)C=CC(=C1)S(=O)(=O)N1C(=CC(=C1)CNC)C1=CC=CC=C1 | InChI=1S/C19H16FN3O2S.ClH/c1-22-12-14-9-19(15-5-3-2-4-6-15)23(13-14)26(24,25)17-8-7-16(11-21)18(20)10-17;/h2-10,13,22H,12H2,1H3;1H
